US06028195
1-[(2-Methoxyquinolin-3-yl)aminocarbonyl]-4-(2,3-dimethylphenyl)piperazine
Phenyl N-(2-methoxyquinolin-3-yl)carbamate and 1-(2,3-dimethylphenyl)piperazine were reacted by the same way with the example 81 to obtain the titled compound.

reactant | Phenyl N-(2-methoxyquinolin-3-yl)carbamate | COC1=NC2=CC=CC=C2C=C1NC(OC1=CC=CC=C1)=O | C17H14N2O3
reactant | 1-(2,3-dimethylphenyl)piperazine | CC1=C(C=CC=C1C)N1CCNCC1 | C12H18N2
product | 1-[(2-Methoxyquinolin-3-yl)aminocarbonyl]-4-(2,3-dimethylphenyl)piperazine | yield: 83% | COC1=NC2=CC=CC=C2C=C1NC(=O)N1CCN(CC1)C1=C(C(=CC=C1)C)C | C23H26N4O2
